US05760068
Step 1: Preparation of 2-methylthioanisole
Methyl iodide (0.5 mL, 8.1 mmol) and potassium carbonate (1.1 g, 8.1 mmol) were added to a solution of o-thiocresol (1.0 g, 8.1 mmol) in 10 mL of DMF. The reaction was stirred at 50° C. for 4 hours and poured into hexane and water. The organic layer was separated, dried over magnesium sulfate and concentrated to afford 1.1 g of desired material.

reactant | Methyl iodide | 8.1 mmol, 0.5 mL | CI | CH3I
reactant | potassium carbonate | 8.1 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | o-thiocresol | 8.1 mmol, 1.0 g | CC1=CC=CC=C1S | C7H8S
reactant | hexane | CCCCCC | C6H14
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-methylthioanisole | 1.1 g | CC1=C(C=CC=C1)SC | C8H10S
